US09023844B2
To a solution of 4-(2-phenyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)pyridin-2-amine (29 mg, 0.1 mmol, 1 eq) in 2 mL of tetrahydrofurane is added triethylamine (0.055 mL, 0.4 mmol, 4 eq) and then acetyl chloride (0.024 mL, 0.3 mmol, 3 eq). The mixture is stirred for 4 h at room temperature. Triethylamine (0.055 mL, 0.4 mmol, 4 eq) and acetyl chloride (0.024 mL, 0.3 mmol, 3 eq) are then added. The mixture is stirred overnight at room temperature and then poured into water and extracted with dichloromethane (3×50 mL). The combined organic layers are washed with a saturated solution of NaHCO3, brine, dried over anhydrous magnesium sulphate, filtered and concentrated under reduced pressure. The crude material is purified by column chromatography using silica gel in heptane and ethyl acetate (1:0 to 0:1) as eluent and 4 mg (8%) of N-[4-(2-phenyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)pyridin-2-yl]acetamide are obtained as a light brown oil.

reactant | 4-(2-phenyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)pyridin-2-amine | 0.1 mmol, 29 mg, 1 eq | C1(=CC=CC=C1)C1=NN2C(NCCC2)=C1C1=CC(=NC=C1)N | C17H17N5
reactant | triethylamine | 0.4 mmol, 0.055 mL, 4 eq | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.3 mmol, 0.024 mL, 3 eq | C(C)(=O)Cl | C2H3ClO
reactant | Triethylamine | 0.4 mmol, 0.055 mL, 4 eq | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.3 mmol, 0.024 mL, 3 eq | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | tetrahydrofurane | 2 mL | O1CCCC1 | C4H8O
product | N-[4-(2-phenyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)pyridin-2-yl]acetamide | 4 mg, 8% | C1(=CC=CC=C1)C1=NN2C(NCCC2)=C1C1=CC(=NC=C1)NC(C)=O | C19H19N5O
